US09102621B2
3-Chloro-2-(2,2,3,3-tetrafluoropropoxy)pyridine
2,2,3,3-Tetrafluoropropan-1-ol (60.0 g, 0.45 mol) was added to a slurry of NaH (60% dispersion in oil, 15.20 g, 0.63 mol) in anhydrous THF (450 mL) at 0° C. and the reaction mixture allowed to warm up to room temperature, then stirred for 1 hour. 2,3-dichloropyridine (45.0 g, 0.30 mol) was added and the reaction heated to a gentle reflux for 16 hours. The reaction mixture was cooled to room temperature and the solvent removed in vacuo. The residue was partitioned between EtOAc (300 mL) and brine (200 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to afford the title compound as a yellow oil (71 g, 96%).

reactant | 2,2,3,3-Tetrafluoropropan-1-ol | 0.45 mol, 60.0 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | NaH | 0.63 mol, 15.20 g | [H-].[Na+]
reactant | 2,3-dichloropyridine | 0.30 mol, 45.0 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | 3-Chloro-2-(2,2,3,3-tetrafluoropropoxy)pyridine | 71 g, 96% | ClC=1C(=NC=CC1)OCC(C(F)F)(F)F | C8H6ClF4NO
